US06380230B1
A) Ethyl 1-H-pyrrolo[2,3-b]pyridine-2-carboxylate
30 ml of n-butyllithium are added, under nitrogen, at a temperature of less than 5° C., to 5 g of 2-(N-Boc)amino-3-methylpyridine in 100 ml of THF. After stirring for 1 hour at 0° C., the lithiated derivative thus formed is added to a solution of 7 g of ethyl oxalate in 50 ml of THF at −3° C. The reaction medium is allowed to return to RT and is then poured slowly into 25 ml of 6N HCl at 0° C., while maintaining the temperature below 100° C. This mixture is heated at 50° C. for 2 hours and the pH is then brought to 3 by addition of 1N NaOH. This mixture is extracted with Et2O and the organic phase is taken up in K2CO3 solution and then dried and evaporated to give 1.8 g of the expected compound in the form of white crystals: m.p.=162° C.

reactant | n-butyllithium | 30 ml | C(CCC)[Li]
reactant | 2-(N-Boc)amino-3-methylpyridine | 5 g | C(=O)(OC(C)(C)C)NC1=NC=CC=C1C | C11H16N2O2
reactant | ethyl oxalate | 7 g | C(C(=O)[O-])(=O)OCC
reactant | HCl | 6N, 25 ml | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl 1-H-pyrrolo[2,3-b]pyridine-2-carboxylate | 1.8 g | N1C(=CC=2C1=NC=CC2)C(=O)OCC | C10H10N2O2
